US04287341
2-(Morpholin-4-yl)-4-amino-7,8-dimethoxyquinazoline hydrochloride
To 500 ml. of methylethylketone is added 0.1 mole of 4-amino-2-chloro-7,8-dimethoxyquinazoline and 0.12 mole of morpholine and the mixture is refluxed overnight. After cooling in ice-water the solid precipitated is collected by filtration, washed with ether and air dried to obtain the title compound.

reactant | 4-amino-2-chloro-7,8-dimethoxyquinazoline | 0.1 mole | NC1=NC(=NC2=C(C(=CC=C12)OC)OC)Cl | C10H10ClN3O2
reactant | morpholine | 0.12 mole | N1CCOCC1 | C4H9NO
solvent | methylethylketone | CC(=O)CC | C4H8O
product | 2-(Morpholin-4-yl)-4-amino-7,8-dimethoxyquinazoline hydrochloride | Cl.N1(CCOCC1)C1=NC2=C(C(=CC=C2C(=N1)N)OC)OC | InChI=1S/C14H18N4O3.ClH/c1-19-10-4-3-9-11(12(10)20-2)16-14(17-13(9)15)18-5-7-21-8-6-18;/h3-4H,5-8H2,1-2H3,(H2,15,16,17);1H
